US04061656
21.0 G. (80.2 mmol) of triphenylphosphine were added to a solution of 5.8 g. (36.7 mmol) of 2-hydroxymethyl-3-methyl-5-methoxythiophene in 60 ml. of dry carbon tetrachloride and 80 ml. of toluene. The temperature of the reaction mixture was slowly raised to 80° C. and heating was continued overnight. The resulting precipitate was filtered from the cold solution, washed well with cold benzene and dried in high vacuum to yield (3-methyl-5-methoxy-2-thenyl)triphenyl phosphonium chloride, m.p. 180°-185° C.

reactant | triphenylphosphine | 80.2 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-hydroxymethyl-3-methyl-5-methoxythiophene | 36.7 mmol | OCC=1SC(=CC1C)OC | C7H10O2S
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (3-methyl-5-methoxy-2-thenyl)triphenyl phosphonium chloride | [Cl-].CC1=C(SC(=C1)OC)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C25H24OPS.ClH/c1-20-18-25(26-2)28-24(20)19-27(21-12-6-3-7-13-21,22-14-8-4-9-15-22)23-16-10-5-11-17-23;/h3-18H,19H2,1-2H3;1H/q+1;/p-1
